US07109218B2
2-Amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-[4-(2-hydroxyethoxy)phenyl]pyridine-3,5-dicarbonitrile
6.91 g (22.12 mmol) of 2-amino-4-[4-(2-hydroxyethoxy)phenyl]-6-sulphanyl-pyridine-3,5-dicarbonitrile are dissolved in 150 ml of DMF. 7.44 g (66.35 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene and 10.8 g (44.24 mmol) of 4-chloromethyl-2-(4-chlorophenyl)-1,3-thiazole are then added. The suspension is stirred at RT overnight, 50 g of silica gel are added and the mixture is concentrated under reduced pressure. The substance mixture on the silica gel is purified by chromatography on silica gel (mobile phase: toluene to toluene/ethyl acetate, 1:1 mixture). This gives 5.5 g (47% of theory) of product.

reactant | 2-amino-4-[4-(2-hydroxyethoxy)phenyl]-6-sulphanyl-pyridine-3,5-dicarbonitrile | 22.12 mmol, 6.91 g | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)S | C15H12N4O2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 66.35 mmol, 7.44 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-chloromethyl-2-(4-chlorophenyl)-1,3-thiazole | 44.24 mmol, 10.8 g | ClCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C10H7Cl2NS
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-Amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-[4-(2-hydroxyethoxy)phenyl]pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C25H18ClN5O2S2
